US05185257
50 mM tris-hydrochloric acid buffer (2.9 ml) and 0.1 ml of a 10 mM aqueous solution of xanthine are mixed, and this mixture is pre-heated at 37° C. After 0.01 ml of enzyme solution is added and gently mixed, the increase of absorbance at 293 nm per minute is determined using a spectrophotometer thermostated at 37° C. with distilled water as the control. The xanthine oxidase activity is expressed on the assumption that the amount of enzyme which produces 1 μmol of uric acid per minute under the conditions described above is taken as 1 unit (U).

reactant | xanthine | N1C(=O)NC=2N=CNC2C1=O | C5H4N4O2
reactant | water | O | H2O
product | uric acid | 1 μmol | N1C(=O)NC=2NC(=O)NC2C1=O | C5H4N4O3
